US06756378B2
A mixture of methyl 3-bromo-4-nitrophenylacetate (14.8 g, 53.8 mmol), reduced iron powder (9.62 g, 172 mmol), AcONa.3H2O (7.32 g, 53.8 mmol) and AcOH (20.0 ml) in MeOH/H2O (150/600 ml) was heated at 90° C. for 1 h. After cooled to room temperature, the reaction mixture was filtered through Celite and the filtered cake was washed with MeOH. The combined filtrate were evaporated and extracted with EtOAc. The extracts were washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was chromatographed on silica gel [400 g, CHCl3/EtOAc (20/1)] to give methyl 4-amino-3-bromophenylacetate (9.01 g, 69%) as a brown oil. 1H-NMR (CDCl3) δ3.48 (s, 2H), 3.68 (s, 3H), 4.05 (br, 2H), 6.69 (d, J=8.3 Hz, 1H), 7.00 (dd, J=8.1, 2.0 Hz, 1H), 7.32 (d, J=2.0 Hz, 1H).

reactant | methyl 3-bromo-4-nitrophenylacetate | 53.8 mmol, 14.8 g | BrC=1C=C(C=CC1[N+](=O)[O-])CC(=O)OC | C9H8BrNO4
reactant | AcONa.3H2O | 53.8 mmol, 7.32 g | C(=O)(C)O[Na].O.O.O
reactant | AcOH | 20.0 ml | CC(=O)O | C2H4O2
solvent | MeOH H2O | 600 ml | CO.O
product | methyl 4-amino-3-bromophenylacetate | 9.01 g, 69% | NC1=C(C=C(C=C1)CC(=O)OC)Br | C9H10BrNO2
